2150-05-14 11:18:00 Physician Attending Progress Note
Chief Complaint: Afib, SOB
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afib with RVR, pleural effusion with B-cell lymphoma, thickened post
   wall of stomach needs biopsy, intermittent dyspnea
   24 Hour Events:
 MIDLINE - START [**2150-5-13**] 08:50 AM
 THORACENTESIS - At [**2150-5-13**] 03:40 PM
   Asystole for 13 secs yesterday, then few more pauses. Improved without
   meds. Needs pacer, getting it today.
   Thoracentesis vs pleurex for malignant recurrent L effusion
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-5-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-14**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (70 - 91) bpm
   BP: 112/45(61) {89/30(44) - 119/64(73)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                    125 mL
                                                                    110 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                      5 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,081 mL
                                                                    304 mL
   Urine:
                                                                  1,081 mL
                                                                    304 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -956 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN: NAD, AOX3
   HEENT: OP clear, MM slightly dry, JVP 7cm, no hepatojugular reflux
   CARD: irregularly irregular, 3/6 SEM @ USB, [**1-2**] HSM at the LLSB
   PULM: L lung absent breath sounds [**12-30**] way up, rales [**11-28**] way up on R
   side
   ABD: soft, NT, ND, no masses or organomegaly, BS+
   EXT: WWP, no c/c/e
   Labs / Radiology
   10.3 g/dL
   285 K/uL
   97 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   39 mg/dL
   101 mEq/L
   141 mEq/L
   31.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2150-5-14**]  03:04 AM
   WBC
   8.5
   Hct
   31.1
   Plt
   285
   Cr
   2.0
   Glucose
   97
   Other labs: PT / PTT / INR:13.0/23.1/1.1, Ca++:9.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.6 mg/dL
   CXR/CT chest: layering L effusion, multiple lung nodules
   Assessment and Plan
 HYPOXEMIA
 PLEURAL EFFUSION, CHRONIC
 CARDIAC DYSRHYTHMIA OTHER
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 ATRIAL FIBRILLATION (AFIB)
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
   [**Age over 90 **] y/o F with afib, long symptomatic pauses, malignant pleural effusion
   - Card: pacer today, small dissection in aortic arch, ? CTA or TEE
   today or tomorrow, d/w cardiology
   - Hypoxia: CHF + L effusion
   - PA thrombus: seen on TTE, not seen on CTA
   - Malignant pleural effusion with multiple nodules: pleurex catheter
   placement
   - Onc: Awaiting GI biopsy for tissue diagnosis of lymphoma. BM bx sent,
   results pending. No tumor lysis.
   - hypercalcemic- s/p pamidronate, repeat prn
   - CKD: at baseline
   - PVD: continue statin and ASA
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:
   Lines:
   Midline - [**2150-5-13**] 08:50 AM
   22 Gauge - [**2150-5-13**] 08:52 AM
   Prophylaxis:
   DVT: Boots, sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughter [**Name (NI) **] is HCP [**Telephone/Fax (5) 8256**]
   Code status: Full code
   Disposition: floor after pacer
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2150-5-14**] 13:55 ------

2150-05-15 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -s/p PPM placement yesterday for symptomatic pauses
   -reverted to AF/RVR yesterday PM
   -became hypotensive O/N
   -bedside echo: no signs of tamponade
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-5-14**] 08:00 AM
   Metoprolol - [**2150-5-15**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-15**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 106 (75 - 136) bpm
   BP: 96/62(70) {92/40(57) - 120/76(79)} mmHg
   RR: 31 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 80 Inch
                  Total In:
                                                                    178 mL
                  PO:
                  TF:
   IVF:
                                                                    178 mL
   Blood products:
   Total out:
                                                                    424 mL
                                                                    325 mL
   Urine:
                                                                    424 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic), Pulsus paradoxus ~20
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : R base, Wheezes : ,
   Diminished: L base)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   285 K/uL
   10.3 g/dL
   97 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   39 mg/dL
   101 mEq/L
   141 mEq/L
   31.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2150-5-14**]  03:04 AM
   WBC
   8.5
   Hct
   31.1
   Plt
   285
   Cr
   2.0
   Glucose
   97
   Other labs: PT / PTT / INR:13.0/23.1/1.1, Ca++:9.5 mg/dL, Mg++:2.1
   mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo woman admitted with h/o AFib/RVR, mod AS, mod MS, currently
   undergoing work-up of newly diagnosed lymphoma transferred to the CCU
   in the setting of hypotension and AFib/RVR s/p PPM placement for
   bradycardic pauses, with known recurrent L malignant pleural effusion
   and small pericardial effusion.
   .
   Hypotension: Suspect most likely secondary to AF/RVR in setting of
   valvular disease, although she was tachycardic for several hours before
   developing hypotension. Bedside echo prior to transfer not suggestive
   of tamponade physiology. Ddx would also include infectious process;
   obstruction much less likely.
   -attempt to control ventricular rate with IV metoprolol; could consider
   DC cardioversion if patient remains unstable
   -echo today
   -monitor for signs of tamponade
   -f/u infectious workup to r/o sepsis
   .
   RHYTHM: Tachy-brady syndrome with Afib/RVR with symptomatic pause of 12
   seconds, now s/p PPM placement and in Afib/RVR. Her nodal agents had
   been held yesterday due to sinus pauses, which may have contributed to
   her reversion into AF. Given that hypoTN is likely related to
   tachycardia, rate control is primary goal.
   -attempt rate control with lopressor
   -cardioversion if refractory as above
   -Monitor on tele
   -1 dose vancomycin today for PPM yesterday
   -CXR today
   -Interrogate pacer today per EP
   -Discuss anti-coagulation with EP given need for coumadin however
   future procedures while in house unclear so will discuss w/all teams.
   .
   CORONARIES: No known coronary dz, but likely given PVD.
   -cont ASA, bb, statin
   -no ACE in setting of hypoTN
   .
   # Respiratory Status: Currently improved and satting well on 3L NC from
   MICU. The patient has moderate AS, moderate MS related to MAC and
   diastolic CHF, preserved EF as well as atrial fibrillation and a L
   malignant pleural effusion so previous hypoxia was felt to be
   multifactorial. No evidence of PE on CTA. Patient was diuresed
   overnight 1 L in MICU with IV Lasix
   -Currently RR stable on 3L
   -Monitior I/Os
   -Hold on further diuresis as pt appears euvolemic on exam
   patient requiring frequent thoracentesis, may need pleurex catheter, IP
   ([**Doctor Last Name 3132**]) is aware of patient and when otherwise stable may be a
   candidate for this for symptomatic relief; however this depends on type
   of lymphoma and treatment (as effusion may improve w/treatment of
   lymphoma)
   .
   # Lymphoma: per oncology differential includes: marginal zone, primary
   effusion lymphoma, MALT, lymphoplasmoctic lymphoma, all within the B
   cell lymphoma group, will need diagnosis prior to any potential
   treatment.
   -f/u onc recs
   -when stabilized will need EGD to pursue posterior wall gastric
   thickening
   -f/u GI recs
   -f/u bone marrow biopsy results
   -Per report, the uric acid was elevated, added allopurinol, no need to
   check TLS labs per onc at this time
   -Also previously hypercalcemic- continue lasix prn for diuresis, PTH 10
   (low) which is appropriate, phos normal- Pt has received pamidronate
   30mg IV x 1 on [**5-11**], okay to repeat in 1 week if necessary, monitor
   calcium daily
   .
   # CKD with baseline Cr 1.6-1.9 - currently 2.0.
   -avoid nephrotoxins
   -trend
   .
   # Aortic dissection: the patient has a non contrast CT of the chest
   with mural thrombus (asymptomatic) and "potential area of small
   dissection" in the aortic arch.
   -Cardiac surgery evaluated patient yesterday; per their recs they felt
   no need for further imaging
   .
   # PVD:
   - continue statin and ASA
   .
   # Anemia: Mild, normocytic with normal RDW. Phlebotomy likely
   contributing.
   -Fe studies
   -trend
   .
   # FEN: heart healthy diet
   # Access: midline on left and PIV on right
   # PPx: PPI, heparin SC
   # Code: FULL (confirmed with patient)
   # Comm: daughter [**Name (NI) **] is HCP [**Telephone/Fax (1) 8238**]
   # Dispo: CCU for now, likely back to floor once hemodynamically stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2150-5-15**] 06:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-05-16 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Echo: EF hyperdynamic > 75% with LVOT grad >30 [**12-29**] almost complete
   obliteraion in mid-systole. Pt also has LVH, and LV cavity unusually
   small. AS peak aortic grad 43 (mean 21); Mod fxnal MS - MVA 1.0-1.5 w/
   mean grad 9
   - 1L IVF given
   - Amio load + gtt
   - holding BB these 24h while amio on, wills start in AM
   - EP: vanco 1g IV q24 x3d, noticed decrease in slack of ventric lead,
   interrogated pacemaker -> impedence and threshold good. No plan for
   revsion
   - Holding off on anticoag for now given recent pacemaker
   - f/u cx showed Legionella neg, EBV IGM neg/ IGG pos, pleural fluid
   only shows 2+ PMN no microorganisms
   - Onc: broad ddx, will likely need futher tissue for dx- pleura, RML of
   lung, gastric. Glucan/Galactomannan sent
   - bm bx cytogenetics still pending,
   - iron studies normal MCV 88, Iron 46, TIBC 280, Ferritin 90
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-16**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 113 (73 - 115) bpm
   BP: 119/61(75) {81/28(41) - 119/68(77)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 80 Inch
             Total In:
                                                                  2,240 mL
                                                                    411 mL
   PO:
                                                                  1,140 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,100 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    330 mL
   Urine:
                                                                    575 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                     81 mL
   Respiratory support
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic), 2/6 SEM, [**12-31**] Diastolic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : R base, Wheezes :
   Anteriorly, Absent : L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   10.1 g/dL
   128 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   35 mg/dL
   102 mEq/L
   135 mEq/L
   29.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2150-5-14**]  03:04 AM
                             [**2150-5-16**]  04:21 AM
   WBC
   8.5
   9.3
   Hct
   31.1
   29.8
   Plt
   285
   232
   Cr
   2.0
   1.8
   Glucose
   97
   128
   Other labs: PT / PTT / INR:13.8/28.0/1.2, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo woman admitted with h/o AFib/RVR, mod AS, mod MS, currently
   undergoing work-up of newly diagnosed lymphoma transferred to the CCU
   in the setting of hypotension and AFib/RVR s/p PPM placement for
   bradycardic pauses, with known recurrent L malignant pleural effusion
   and small pericardial effusion.
   .
   #. Hypotension: Pressures have remained nearly stable. Notably pt found
   to have LVOT obstruction on ECHO appears related to very small LV.
   Patient given 1L NS yesterday to improve outflow tract dynamics. On
   trivial pericardial effusion noted on ECHO.
   - trying to maintain sinus rhythm with amio
   - keep hydrated
   - cont to monitor
   .
   #. RHYTHM: Tachy-brady syndrome with Afib/RVR, now s/p PPM placement
   and in Afib/RVR.
   - completed amio load. cont amio at 400mg [**Hospital1 7**] x1 week, and then 200mg
   [**Hospital1 7**] x 1 week and then 200 daily thereafter
   - start low dose BB
   - cont post-pacer ABX
   -Discuss anti-coagulation with EP given need for coumadin however
   future procedures while in house unclear so will discuss w/all teams.
   .
   #. CORONARIES: No known coronary dz, but likely given PVD.
   -cont ASA, bb, statin
   -no ACE in setting of hypoTN
   .
   # Respiratory Status: Remains stable. Will likely require repeat L
   [**Female First Name (un) 217**] versus pleurX cath given rapid re-accumulation. Team has been in
   touch with IP.
   -Currently RR stable on 3L
   -Monitior I/Os
   -Hold on further diuresis as pt appears euvolemic on exam
    .
   # Lymphoma: Onc planning on gastric biopsy versus pleural nodule biopsy
   given dx not clear at this time..
   -f/u onc recs
   -when stabilized will need EGD to pursue posterior wall gastric
   thickening
   -f/u GI recs
   -f/u bone marrow biopsy results
   -Also previously hypercalcemic- continue lasix prn for diuresis, PTH 10
   (low) which is appropriate, phos normal- Pt has received pamidronate
   30mg IV x 1 on [**5-11**], okay to repeat in 1 week if necessary, monitor
   calcium daily
   .
   # CKD with baseline Cr 1.6-1.9 - currently 2.0.
   -avoid nephrotoxins
   -trend
   .
   # Aortic dissection: Felt to be a chronic finding. the patient has a
   non contrast CT of the chest with mural thrombus (asymptomatic) and
   "potential area of small dissection" in the aortic arch.
   -Cardiac surgery evaluated patient  and per their recs they felt no
   need for further imaging
   .
   # PVD:
   - continue statin and ASA
   .
   # Anemia: Mild, normocytic with normal RDW. Phlebotomy likely
   contributing.
   -Fe studies
   -trend
   .
   # FEN: heart healthy diet
   # Access: midline on left and PIV on right
   # PPx: PPI, heparin SC
   # Code: FULL (confirmed with patient)
   # Comm: daughter [**Name (NI) **] is HCP [**Telephone/Fax (1) 8238**]
   # Dispo: CCU for now, likely back to floor once hemodynamically stable
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 40